US04314061
3,6-bis(2-n-propylaminoethoxy)acridine trihydrochloride
The compound is prepared from 3,6-bis(2-chloroethoxy)acridine hydrochloride and n-propylamine as described in Example 15, giving 1.20 g. of the desired product as yellow crystals, m.p. 250°-252° C.

reactant | 3,6-bis(2-chloroethoxy)acridine hydrochloride | Cl.ClCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCl
reactant | n-propylamine | C(CC)N | C3H9N
product | 3,6-bis(2-n-propylaminoethoxy)acridine trihydrochloride | Cl.Cl.Cl.C(CC)NCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCNCCC | InChI=1S/C23H31N3O2.3ClH/c1-3-9-24-11-13-27-20-7-5-18-15-19-6-8-21(28-14-12-25-10-4-2)17-23(19)26-22(18)16-20;;;/h5-8,15-17,24-25H,3-4,9-14H2,1-2H3;3*1H
